US07144899B2
Step B: (2S)-2-amino-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]butanamide
To a stirred solution of tert-butyl (1S)-1-({[5-chloro-2-(1H-tetraazol-1-yl)benzyl]amino}carbonyl)propylcarbamate (237 mg, 0.60 mmol) in EtOAc (3.5 mL) at rt was added 4 M HCl in dioxane (0.6 mL, excess). After 30 min, a small amount of MeOH was added to keep product in solution. After 3 h, another 0.6 mL of 4 M HCl/dioxane was added and continued to stir overnight at rt. Solvent was removed in vacuo to give the title compound as a foamy yellow solid. LCMS (M+H): 295.0. 1H NMR (400 MHz, CD3OD): δ 9.58 (s, 1 H), 8.79 (m, 1 H), 7.68 (d, J=2.4 Hz, 1 H), 7.58 (dd, J=2.0 Hz, 8.4 Hz, 1 H), 7.52 (d, J=8.4 Hz, 1 H), 4.30–4.29 (m, 2 H), 3.79 (app t, J=6.2 Hz, 1 H), 1.87–1.80 (m, 2 H), 0.97 (t, J=7.6 Hz, 3 H).

reactant | tert-butyl (1S)-1-({[5-chloro-2-(1H-tetraazol-1-yl)benzyl]amino}carbonyl)propylcarbamate | 0.60 mmol, 237 mg | ClC=1C=CC(=C(CNC(=O)[C@H](CC)NC(OC(C)(C)C)=O)C1)N1N=NN=C1 | C17H23ClN6O3
reactant | HCl | 4 M | Cl | ClH
reactant | MeOH | CO | CH4O
reactant | HCl dioxane | 4 M, 0.6 mL | Cl.O1CCOCC1
solvent | EtOAc | 3.5 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
product | (2S)-2-amino-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]butanamide | N[C@H](C(=O)NCC1=C(C=CC(=C1)Cl)N1N=NN=C1)CC | C12H15ClN6O
